US07259266B2
Sodium 6-Chloro-8-(4-chloro-3-methylphenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A solution of 6-chloro-8-(4-chloro-3-methylphenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid 31.5 mg (0.078 mmole) in 2.0 mL of ethanol was treated with 0.775 mL of 0.1008N NaOH. The resultant mixture was lyophilized to provide a quantitative yield of a yellow solid: 1H NMR (CD3OD/400 MHz) 2.39 (s, 3H), 5.77 (q, 1H, J=6.8 Hz), 7.25-7.28 (m, 1H), 7.34 (d, 1H, J=2.4 Hz), 7.37-7.40 (m, 3H), 7.79 (s, 1H).

reactant | 6-chloro-8-(4-chloro-3-methylphenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.078 mmole, 31.5 mg | ClC=1C=C2C=C(C(OC2=C(C1)C1=CC(=C(C=C1)Cl)C)C(F)(F)F)C(=O)O | C18H11Cl2F3O3
reactant | NaOH | 0.1008N, 0.775 mL | [OH-].[Na+]
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | Sodium 6-Chloro-8-(4-chloro-3-methylphenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | quantitative yield | ClC=1C=C2C=C(C(OC2=C(C1)C1=CC(=C(C=C1)Cl)C)C(F)(F)F)C(=O)[O-].[Na+] | InChI=1S/C18H11Cl2F3O3.Na/c1-8-4-9(2-3-14(8)20)12-7-11(19)5-10-6-13(17(24)25)16(18(21,22)23)26-15(10)12;/h2-7,16H,1H3,(H,24,25);/q;+1/p-1
